US04590154
To a mixture of 200 ml of acetonitrile, 50 g of sulfanilamide, and 30 g of triethylamine was added dropwise 35 g of pivaloyl chloride at 50° C. They were then stirred for 30 minutes and the resulting suspension was poured into 1.5 l of water. The thus formed crystals were separated by filtration to yield 68 g of p-pivaloylaminobenzenesulfonamide (m.p., 219°-220° C.).

reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | sulfanilamide | 50 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 35 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | 1.5 l | O | H2O
product | p-pivaloylaminobenzenesulfonamide | 68 g | C(C(C)(C)C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N | C11H16N2O3S
